US05554615
A solution of p-toluenethiol (13.7 g, 0.11 mol) in anhydrous methylene chloride was stirred under cooling with ice in a nitrogen stream, followed by the addition of a solution of trimethylaluminium (7.9 g, 0.11 mol) in hexane. The obtained mixture was stirred for about 20 minutes and cooled in a dry ice-acetone bath, followed by the dropwise addition of a solution of 2-cyclopentenone (8.41 g, 0.10 mol) in methylene chloride. The obtained mixture was further stirred for 30 minutes and diluted with anhydrous tetrahydrofuran, followed by the addition of a solution of p-toluenesulfonyl cyanide (22.9 g, 0.12 mol) in tetrahydrofuran at -50° C. or below. The mixture thus obtained was stirred for about 30 minutes and further in an ice bath for about 60 minutes. About 40 ml of methanol was dropped into the resulting mixture, followed by the addition of diethyl ether. The obtained mixture was washed with aqueous hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and an aqueous solution of common salt, dehydrated and concentrated. The concentrated solution gave 2-cyano-3-(4-methylphenyl)thio-1-cyclopentanone as a crystalline powder by allowing the solution as such to stand or by adding a small amount of an n-hexane/ethyl acetate (1:1) mixture to the solution and allowing the obtained mixture to stand. yield: 22 g

reactant | p-toluenethiol | 0.11 mol, 13.7 g | C1(=CC=C(C=C1)S)C | C7H8S
reactant | trimethylaluminium | 0.11 mol, 7.9 g | C[Al](C)C
reactant | 2-cyclopentenone | 0.10 mol, 8.41 g | C1(C=CCC1)=O | C5H6O
reactant | p-toluenesulfonyl cyanide | 0.12 mol, 22.9 g | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 40 ml | CO | CH4O
product | 2-cyano-3-(4-methylphenyl)thio-1-cyclopentanone | C(#N)C1C(CCC1SC1=CC=C(C=C1)C)=O | C13H13NOS
